US08198269B2
(1) Synthesis of 1-[2-(tert-butyldimethylsilanyloxy)ethoxy]-3-buten-2-ol
A solution of oxalyl chloride (8.38 mL) in dichloromethane (470 mL) was cooled to −78° C. in a nitrogen atmosphere. A solution of dimethyl sulfoxide (8.01 mL) in dichloromethane (10 mL) was added dropwise to the reaction solution at the same temperature. The reaction solution was stirred at the same temperature for 10 minutes. A solution of 2-[2-(tert-butyldimethylsilanyloxy)ethoxy]ethanol (25.9 g) in dichloromethane (20 mL) was added dropwise to the reaction solution at the same temperature. The reaction solution was stirred at the same temperature for 30 minutes. Triethylamine (52.1 mL) was added to the reaction solution at the same temperature. The reaction solution was stirred for one hour while gradually returning to room temperature. Aqueous ammonium chloride was added to the reaction solution, and the organic layer was separated. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The organic layer was filtered through a silica pad and the filtrate was concentrated. Tetrahydrofuran (500 mL) was added to the residue. The reaction solution was cooled to −78° C. in a nitrogen atmosphere. Vinylmagnesium chloride (148 mL, 1.38 M solution in tetrahydrofuran) was added dropwise to the reaction solution at the same temperature. The reaction solution was heated to room temperature with stirring over six hours. Aqueous ammonium chloride and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (10.03 g).

reactant | oxalyl chloride | 8.38 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 8.01 mL | CS(=O)C | C2H6OS
reactant | 2-[2-(tert-butyldimethylsilanyloxy)ethoxy]ethanol | 25.9 g | [Si](C)(C)(C(C)(C)C)OCCOCCO | C10H24O3Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 470 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Triethylamine | 52.1 mL | C(C)N(CC)CC | C6H15N
product | 1-[2-(tert-butyldimethylsilanyloxy)ethoxy]-3-buten-2-ol | 10.03 g | [Si](C)(C)(C(C)(C)C)OCCOCC(C=C)O | C12H26O3Si
